US04742052
Ceric ammonium nitrate (12.1 g) was added to the solution of 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethane-4-acetoxy-2-azetidinone (6.06 g) in 10% H2O-acetonitrile (90 ml) in portions over 1 hour at room temperature, followed by stirring for 30 minutes. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and evaporated to give an oily residue which was then purified by silica gel chromatography to give 3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-acetoxy-2-azetidinone.

reactant | 1-p-nitrobenzyloxycarbonyloxyethane 4-acetoxy-2-azetidinone | 6.06 g | [N+](=O)([O-])C1=CC=C(COC(=O)OCC)C=C1.C(C)(=O)OC1CC(N1)=O
solvent | H2O acetonitrile | 90 ml | O.C(C)#N
solvent | water | O | H2O
product | 3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-acetoxy-2-azetidinone | [N+](=O)([O-])C1=CC=C(COC(=O)OC(C)C2C(NC2OC(C)=O)=O)C=C1 | C15H16N2O8
